US08957074B2
Following general N—C coupling procedure 1, 2-Chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (200 mg, 0.683 mmol, 1.0 eq) was combined with 5-(6-Amino-pyridine-3-carbonyl)-(R,R)-2,5-diaza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester (217 mg, 0.683 mmol, 1.0 eq) which gave 5-[6-(7-Cyclopentyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-pyridine-3-carbonyl]-(R,R)-2,5-diaza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester (100 mg) in 25% yield. 1H NMR (400 MHz, CDCl3-d) δ ppm 1.47 (br. s., 5H) 1.52 (br. s., 5H) 1.69-1.83 (m, 2H) 1.83-2.00 (m, 2H) 2.06-2.20 (m, 4H) 2.59 (br. s., 2H) 3.18 (s, 6H) 3.38-3.58 (m, 2H) 3.58-3.82 (m, 3H) 4.56 (br. s., 1H) 4.75-4.91 (m, 1H) 6.50 (s, 1H) 7.96 (br. s., 1H) 8.35 (br. s., 1H) 8.52 (br. s., 1H) 8.59 (br. s., 1H) 8.78 (s, 1H)

reactant | 2-Chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 0.683 mmol, 200 mg, 1.0 eq | CN(C(=O)C1=CC2=C(N=C(N=C2)Cl)N1C1CCCC1)C | C14H17ClN4O
reactant | 5-(6-Amino-pyridine-3-carbonyl)-(R,R)-2,5-diaza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester | 0.683 mmol, 217 mg, 1.0 eq | C(C)(C)(C)OC(=O)N1[C@H]2CN([C@@H](C1)C2)C(=O)C=2C=NC(=CC2)N | C16H22N4O3
product | 5-[6-(7-Cyclopentyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-pyridine-3-carbonyl]-(R,R)-2,5-diaza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester | 100 mg, 25% yield | C(C)(C)(C)OC(=O)N1[C@H]2CN([C@@H](C1)C2)C(=O)C=2C=NC(=CC2)NC=2N=CC1=C(N2)N(C(=C1)C(N(C)C)=O)C1CCCC1 | C30H38N8O4
